US04176116
33.48 g (0.15 mol) of N-benzyloxycarbonyl-L-alanine were dissolved in 225 ml of dry tetrahydrofuran and the solution was cooled to -10° C. 22.95 ml (0.15 mol) of triethylamine and 19.8 ml (0.15 mol) of isobutyl chloroformate were then added and the solution was stirred at -10° C. for 20 minutes. To this mixture was then added a solution of 7.53 g (0.15 mol) of monoethylamine in 215 ml of dimethylformamide. The solution was stirred at -10° C. for 5 minutes and then left to stand for 16 hours at room temperature. The solvents were removed by evaporation and the residue was triturated with 450 ml of ethyl acetate and washed successively with 200 ml of 1-N hydrochloric acid, 200 ml of water and 200 ml of 5% sodium bicarbonate solution. After drying over sodium sulphate and filtration, the solvent was removed by evaporation. The resulting oil crystallised on the addition of petrol to yield 22.70 g (60.5%) of N-benzyloxycarbonyl-L-alanine ethylamide of melting point 127°-128° C.; [α]D20 =+11.2° (c=0.83% in dimethylformamide).

reactant | N-benzyloxycarbonyl-L-alanine | 0.15 mol, 33.48 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | triethylamine | 0.15 mol, 22.95 ml | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.15 mol, 19.8 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | monoethylamine | 0.15 mol, 7.53 g | C(C)N | C2H7N
solvent | tetrahydrofuran | 225 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 215 ml | CN(C=O)C | C3H7NO
product | N-benzyloxycarbonyl-L-alanine ethylamide | 22.70 g, 60.5% | C(C)NC([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O | C13H18N2O3
